US06506762B1
D. [2,5-Dimethyl-3-(2,4,6trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl](2-chloroethyl)amine
Treat a solution of N-[2,5-dimethyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide (0.91 g, 2.55 mmol) in THF (5 mL) with borane-methyl sulfide complex (0.8 mL, 7.65 mmol). Heat the mixture to reflux for 18 h and quench at ambient temperature with a large excess of MeOH, followed by 6N HCl (5 mL). Re-heat the mixture to reflux for 1 h, then concentrate under reduced pressure to obtain the title compound as a white crystalline solid.

reactant | N-[2,5-dimethyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide | 2.55 mmol, 0.91 g | CC=1N(C2=NC(=CC(=C2N1)NC(CCl)=O)C)C1=C(C=C(C=C1C)C)C | C19H21ClN4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [2,5-Dimethyl-3-(2,4,6trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl](2-chloroethyl)amine | CC=1N(C2=NC(=CC(=C2N1)NCCCl)C)C1=C(C=C(C=C1C)C)C | C19H23ClN4
